US09120749B2
(S)-tert-butyl 1-(5-(6-(3,5-dichloro-4-hydroxyphenyl)-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate
Following general procedure F, (S)-tert-butyl 1-(5-(6-bromo-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate (80 mg, 0.14 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (49 mg, 0.17 mmol) to afford the desired product (50 mg, 54%) as an orange solid: ESI MS m/z 636 [C33H35Cl2H5O4+H]+

reactant | (S)-tert-butyl 1-(5-(6-bromo-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 0.14 mmol, 80 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)NC=1C=CC(=NC1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C27H32BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.17 mmol, 49 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | (S)-tert-butyl 1-(5-(6-(3,5-dichloro-4-hydroxyphenyl)-3-propionylquinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 50 mg, 54% | ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(CC)=O)NC=1C=CC(=NC1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C33H35Cl2N5O4
